US08445684B2
3-Fluoro-5-iodocinnamic Acid Methyl Ester
3-Fluoro-5-iodobenzaldehyde, monomethyl malonate, and a catalytic amount of pyrrolidine are heated in pyridine. After cooling, the solvent is distilled off in vacuo. 2N HCl and ethyl acetate are added to the residue, and the phases are separated. The organic layer is washed with brine and dried over Na2SO4. After evaporation, the residue is purified by CC on silica gel with EtOAc/hexane. Evaporation of appropriate fractions yields the title compound.

reactant | 3-Fluoro-5-iodobenzaldehyde | FC=1C=C(C=O)C=C(C1)I | C7H4FIO
reactant | monomethyl malonate | C(CC(=O)[O-])(=O)OC
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-Fluoro-5-iodocinnamic Acid Methyl Ester | COC(C=CC1=CC(=CC(=C1)I)F)=O | C10H8FIO2
